US05019647
BOC-(S)-histidineamide.
A mixture of NαNim -bis BOC-(S)-histidine ethyl acetate solvate (0.96 g, 2.50 mmol), 4 methyl-morpholine (0.28 mL, 2.50 mmol) and isobutyl chloroformate (0.33 mL, 2.50 mmol) in ethyl acetate (35 mL) is stirred in an ice bath under N2 for 15 minutes. A solution of (S)-2-amino-1-ethylthio-4-methyl pentane (0.40 g, 2.50 mmol) in ethyl acetate (2 mL) is then added and the reaction stirred at room temperature for 18 hours. After washing with 10% citric acid, brine, saturated NaHCO3 solution and brine, the ethyl acetate extract is dried (Na2SO4), filtered and concentrated under reduced pressure. The residue is flash chromatographed over silica gel. Elution with a mixture of 2% methanol- 98% chloroform affords pure BOC-protected histidineamide.

reactant | bis BOC-(S)-histidine ethyl acetate | 2.50 mmol, 0.96 g | C(C)CC(=O)O.C(=O)(OC(C)(C)C)N([C@@H](CC1=CNC=N1)C(=O)O)C(=O)OC(C)(C)C
reactant | methyl-morpholine | 2.50 mmol, 0.28 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.50 mmol, 0.33 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (S)-2-amino-1-ethylthio-4-methyl pentane | 2.50 mmol, 0.40 g | N[C@H](CSCC)CC(C)C | C8H19NS
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | BOC-(S)-histidineamide | C(=O)(OC(C)(C)C)N[C@@H](CC1=CNC=N1)C(=O)N | C11H18N4O3
